US07858796B2
(20) 3-(1-{[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]sulfonyl}-4-piperidinyl)-5-phenyl-1H-indole-7-carboxamide
To a solution of 5-phenyl-3-(4-piperidinyl)-1H-indole-7-carboxamide (84.8 mg, 0.265 mmol) in CH2Cl2 at 0° C., triethylamine (0.15 mL, 1.06 mmol) and 2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethanesulfonyl chloride (87.03 mg, 0.32 mmol) were added. The reaction mixture was stirred at 0° C. for 30 min. The reaction mixture was partitioned between CH2Cl2 and water. The organic layer was separated and the aqueous layer was extracted with CH2Cl2 (2×). The combined organic phase washed with brine, dried over magnesium sulfate and filtered. The solvent was removed under reduced pressure to give the crude product (90 mg, 61%).

reactant | 5-phenyl-3-(4-piperidinyl)-1H-indole-7-carboxamide | 0.265 mmol, 84.8 mg | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCNCC1 | C20H21N3O
reactant | TEA | 1.06 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethanesulfonyl chloride | 0.32 mmol, 87.03 mg | O=C1N(C(C2=CC=CC=C12)=O)CCS(=O)(=O)Cl | C10H8ClNO4S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(1-{[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]sulfonyl}-4-piperidinyl)-5-phenyl-1H-indole-7-carboxamide | 90 mg, 61% | O=C1N(C(C2=CC=CC=C12)=O)CCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C30H28N4O5S
